US06034055
17d N-[2-(N-tert-Butyloxycarbonyl-glycyl-glycyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-octadecyl-oleamide.
from N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-oleamide and N-tert-butyloxycarbonyl-glycyl-glycine. Yield 81%. [α]D =+15.0° (c=0.94, dichloromethane).

reactant | N-(2-glycyl-amino-2-deoxy-β-D-glucopyranosyl)-N-octadecyl-oleamide | NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C44H85N3O6
reactant | N-tert-butyloxycarbonyl-glycyl-glycine | C(C)(C)(C)OC(=O)NCC(=O)NCC(=O)O | C9H16N2O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2-(N-tert-Butyloxycarbonyl-glycyl-glycyl-glycyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-octadecyl-oleamide | Yield 81% | C(C)(C)(C)OC(=O)NCC(=O)NCC(=O)NCC(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCC\C=C/CCCCCCCC)=O)CCCCCCCCCCCCCCCCCC)N | C53H99N5O10
